US07196090B2
(2-Fluoro-3,5-dimethoxy-phenyl)-carbamic acid tert-butyl ester
To a stirred mixture of 54.5 g (0.27 mol) of 2-fluoro-3,5-dimethoxy benzoic acid, 38 mL (0.27 mol) of triethylamine and 20.1 g (0.27 mol) of t-butanol in 500 mL of toluene, 59.9 mL (0.27 mol) of diphenylphosphoryl azide was added in one portion and the mixture was heated to 60° C.–70° C. After approx. 1 hour, the reaction was completed and the mixture was cooled down. The toluene was removed in vacuo. Then, ethyl acetate was added and the resulting solution was washed two times with saturated potassium hydrogen-phosphate solution, two times with saturated sodium bicarbonate solution, one time with brine, dried over sodium sulfate, filtered and evaporated. The crude product was purified by column chromatography: 1.4 kg of silica eluting with dichloromethane to give 63.2 g (86%) of the title compound. MS (APCI) (m+1)/z 270.0.

reactant | 2-fluoro-3,5-dimethoxy benzoic acid | 0.27 mol, 54.5 g | FC1=C(C(=O)O)C=C(C=C1OC)OC | C9H9FO4
reactant | triethylamine | 0.27 mol, 38 mL | C(C)N(CC)CC | C6H15N
reactant | t-butanol | 0.27 mol, 20.1 g | C(C)(C)(C)O | C4H10O
reactant | diphenylphosphoryl azide | 0.27 mol, 59.9 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
product | (2-Fluoro-3,5-dimethoxy-phenyl)-carbamic acid tert-butyl ester | 63.2 g, 86% | C(C)(C)(C)OC(NC1=C(C(=CC(=C1)OC)OC)F)=O | C13H18FNO4
